US05081131
N-Benz(cd)indol-2-yl-N-(4-(3-pyridinyl)butyl)-3-trifluoromethylbenzamide
A solution of 5.0 grams of N-(4-(3-pyridinyl)butyl)benz(cd)indol-2-amine in 50 ml of pyridine was stirred as 2.5 ml of 3-trifluoromethylbenzoyl chloride was slowly added. The reaction mixture was stirred at room temperature for 18 hours, and drowned onto 500 ml of ice. The precipitate was collected, washed with water and dried. Recrystallization from chloroform-hexane gave 3.95 grams of the title product, mp 122° C.-123° C.

reactant | N-(4-(3-pyridinyl)butyl)benz(cd)indol-2-amine | 5.0 grams | N1=CC(=CC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | C20H19N3
reactant | 3-trifluoromethylbenzoyl chloride | 2.5 ml | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-Benz(cd)indol-2-yl-N-(4-(3-pyridinyl)butyl)-3-trifluoromethylbenzamide | 3.95 grams | N1=C(C2=C3C(C=CC=C13)=CC=C2)N(C(C2=CC(=CC=C2)C(F)(F)F)=O)CCCCC=2C=NC=CC2 | C28H22F3N3O
